US07250442B2
4-Chloro-1-(2-chloro-benzyl)-1H-indole-2,3-dione
Partially dissolve 4-chloro isatin (118 mg, 0.65 mmol) in acetonitrile (4 mL). Add 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine (0.207 ml, 0.72 mmol) and after 5 min add 2-chlorobenzyl bromide (0.084 mL, 0.65 mmol). After 4 h dilute with ethyl acetate (50 mL) and wash with 1N HCl (2×20 mL), water, and brine. Dry (Na2SO4), filter and concentrate in vacuo to give 188 mg (94%) of the title compound as crude material as a red solid. MS (ES): m/z=306 (M+1).

reactant | 4-chloro isatin | 0.65 mmol, 118 mg | ClC1=C2C(C(NC2=CC=C1)=O)=O | C8H4ClNO2
reactant | 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine | 0.72 mmol, 0.207 ml | C(C)(C)(C)N=P1(N(CCCN1C)C)N(CC)CC | C13H31N4P
reactant | 2-chlorobenzyl bromide | 0.65 mmol, 0.084 mL | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-Chloro-1-(2-chloro-benzyl)-1H-indole-2,3-dione | 188 mg, 94% | ClC1=C2C(C(N(C2=CC=C1)CC1=C(C=CC=C1)Cl)=O)=O | C15H9Cl2NO2
